reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C@@:2]1([H:10])[C@@:3]2([H:11])[C:4]([H:12])([H:13])[O:5][C@@:6]12[H:14])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:3](/[C@@:6]1([H:14])[C:4]([H:12])([H:13])[O:5]1)[H:11])[H:10])([H:7])([H:8])[H:9],77.4175928277855
[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[O:5]([C:6]([H:16])([H:17])[H:18])[H:12]>>[C:1]([C:2]([C:3]([C:4]([O:5][C:6]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],55.8222397275333
[O:1]=[C:2]([C:3]#[C:4][H:7])[N+:6]#[C-:5]>>[O:1]=[C:2]([C:3]#[C:4][H:7])[C:5]#[N:6],32.5999327186902
[O:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C-:5]#[O+:6].[H:11][H:14].[O:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:10])([H:8])[H:9])[H:7],76.2040391237452
[N:1]([C@:2]1([H:10])[O:3][C@:4]1([C:5]#[C:6][H:11])[H:9])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[C:4]([C:5]#[C:6][H:11])([H:9])[H:10])([H:7])[H:8],61.3967961752274
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5](=[O:6])[H:17])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9].[H:16][H:18]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([O:6][H:18])([H:16])[H:17])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],69.4925254379244
[C:1]([N:2]([C:3]([O:4][H:10])=[C:5]([H:11])[H:12])[H:9])([H:6])([H:7])[H:8]>>[C:1]([N:2]([C:3](=[O:4])[C:5]([H:10])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8],34.73936082912379
[C:1]([C:3]1([H:10])[N:2]=[N:6][N:5]=[N:4]1)([H:7])([H:8])[H:9]>>[C:1]([n:2]1[c:3]([H:10])[n:4][n:5][n:6]1)([H:7])([H:8])[H:9],45.69986803259239
[C:1](#[C:2][N:5]=[C:4]=[C:3]([H:7])[H:8])[H:6]>>[C:1](#[C:2][C:3]([C:4]#[N:5])([H:7])[H:8])[H:6],89.52778336057939
[C:1]([C@@:2]([O:3][H:12])([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:4]([C:2](=[O:3])[H:11])([C:5]([H:14])([H:15])[H:16])[C:6]#[N:7])([H:8])([H:9])[H:10].[H:12][H:13],102.33159629170099
[C-:1]([O+:2]=[C:3]([H:11])[H:12])([H:8])[H:9].[C:4](=[N:5]/[O:6][H:13])(\[C:7]([H:14])([H:15])[H:16])[H:10]>>[C:1]([O:2][C:3](/[C:4](=[N:5]\[O:6][H:13])[C:7]([H:14])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10],9.464260416084798
[O:1]([c+:2]1[n-:3][c:4]([H:8])[n:5][n:6]1[H:9])[H:7]>>[O:1]([C@@:2]1([H:9])[N:3]=[C:4]([H:8])[N:5]=[N:6]1)[H:7],60.4030553504961
[C:1]([C@:2]12[C@@:3]3([H:11])[C@:4]4([H:12])[C@@:5]3([H:13])[C@@:6]1([H:14])[C@:7]24[H:15])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]12[C:3]([H:11])([H:13])[C@@:4]3([H:12])[C:5][C@:6]1([H:14])[C@@:7]23[H:15])([H:8])([H:9])[H:10],51.117615449812
[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([C:3]([O:4][H:9])=[C:5]=[C:6]([H:10])[H:12])[H:11])([H:7])[H:8],112.1914837392
[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:9])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[O:4][C@:5]1([O:6][H:10])[N:7]([H:15])[H:16],82.63770481888791
[O:1]([C:2]1([C:5]#[N:6])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7]>>[O:1]([C:4]([C:3]([C+:2]=[C:5]=[N-:6])([H:8])[H:9])([H:10])[H:11])[H:7],89.0412470388732
[C:1]([O:2][C:3](=[N:4]\[H:11])/[N:5]=[C:6](/[O:7][H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]([O:2]/[C:3](=[N:4]\[H:11])[N:5]([C:6](=[O:7])[H:13])[H:12])([H:8])([H:9])[H:10],30.3535076664227
[C:1]([C:2][C@@:7]1([H:15])[C@@:4]2([H:13])[C:3]([H:11])([H:12])[C@:6]1([H:14])[O:5]2)([H:8])([H:9])[H:10]>>[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@@:4]3([H:13])[O:5][C@:6]1([H:14])[C@@:7]23[H:15])([H:8])([H:9])[H:10],39.133267632815006
[C:1]([C:2]([C:3](=[O:4])[H:12])=[C:5]=[O:6])([H:8])([H:9])[H:10].[N:7]([H:11])([H:13])[H:14]>>[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],40.0824754286691
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([O:5][H:16])([H:14])[H:15])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([H:14])[H:15])([H:8])([H:9])[H:10].[O:5]([N+:7]#[C-:6])[H:16],113.769433790133
[C:1](=[C:2]([H:10])[H:11])([H:7])[H:8].[C:3](=[O:4])=[C:5]=[C:6]([H:9])[H:12]>>[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],27.793857166216913
[C:2]1([H:8])([H:9])[C:3]([H:10])([H:11])[C:4]1([C:5]#[N:6])[H:13].[O:1]([H:7])[H:12]>>[O:1]([C:2]([C:3]([C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7],75.7793769996325
[O:1]1[C:2]([H:7])([H:11])[C@@:3]1([C:4]([C:5](=[O:6])[H:12])([H:9])[H:10])[H:8]>>[O:1]=[C:2]([C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7],76.68598956893257
[C:1]([C@@:2]1([H:10])[C@:3]([O:4][H:12])([H:11])[C@:5]1([O:6][H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3](=[O:4])[C@:5]1([O:6][H:14])[H:13])([H:7])([H:8])[H:9].[H:11][H:12],88.7186066479002
[O:1]([C:2]([C:3](=[O:4])[C:5]([O:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C@:3]1([O:4][H:12])[C:5]([H:10])([H:11])[O:6]1)([H:8])[H:9])[H:7],56.7501906249233
